US05151459
N,N-Diphenylpropargylamine
To a well-stirred mixture of diphenylamine (50 g, 0.3 mol), powdered potassium hydroxide (43 g, 0.65 mol) and tetrabutylammonium bromide (4.7 g, 0.015 mol) in 500 ml of tetrahydrofuran is added dropwise with cooling propargyl bromide (42 g, 0.35 mol). The resulting mixture is stirred at room temperature for one hour and then at 60° C. for ten hours. The mixture is cooled, diluted with diethyl ether and then filtered. The solvent is removed from the filtrate in vacuo to give a black oil. Distillation of said oil gives a fraction boiling at 105-107 at 0.4 torr. Said fraction is then chromatographed (silica gel, hexane) to give 16 g (27% yield) of the title compound as a pale yellow oil.

reactant | diphenylamine | 0.3 mol, 50 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium hydroxide | 0.65 mol, 43 g | [OH-].[K+]
reactant | propargyl bromide | 0.35 mol, 42 g | C(C#C)Br | C3H3Br
catalyst | tetrabutylammonium bromide | 0.015 mol, 4.7 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-Diphenylpropargylamine | 16 g, 27% yield | C1(=CC=CC=C1)N(C1=CC=CC=C1)CC#C | C15H13N
